US07018988B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-[2-(diethylamino)ethyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 74% purity by LC/MS. MS(ESI+): m/z=581.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-[2-(diethylamino)ethyl]-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)NCCN(CC)CC)C1=CC=CC=C1 | C31H34Cl2N4O3
